US07994176B2
1-(4-Benzyloxy-2,6-dichloro-benzyl)-3-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one
Treat a −78° C. solution of 3-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one (0.25 g, 0.59 mmol) in THF (6 mL) with a 1.6 M n-butyl lithium in hexanes (0.37 mL, 0.59 mmol) and stir at −78° C. for 10 minutes under N2. Treat the reaction with 5-benzyloxy-2-bromomethyl-1,3-dichloro-benzene (0.204 g, 0.59 mmol), warm to room temperature, and stir for 16 hours under N2. Re-cool the reaction to −78° C., treat with 1.6 M n-butyl lithium in hexanes (0.37 mL, 0.59 mmol), warm to room temperature, and stir for 2 hours. Quench the reaction with water and extract with ethyl acetate. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify with a 50 to 100% ethyl acetate in hexanes gradient to afford 0.263 g (65%) of the titled product. Rf=0.18 (3/1 ethyl acetate/hexanes). ES MS (m/z): 687 (M+).

reactant | 3-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one | 0.59 mmol, 0.25 g | C(C)(C)(C)[Si](OC1CCN(CC1)C1C(NCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2O2Si
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | 5-benzyloxy-2-bromomethyl-1,3-dichloro-benzene | 0.59 mmol, 0.204 g | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)Cl)CBr)Cl | C14H11BrCl2O
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(4-Benzyloxy-2,6-dichloro-benzyl)-3-[4-(tert-butyl-diphenyl-silanyloxy)-piperidin-1-yl]-pyrrolidin-2-one | 0.263 g, 65% | C(C1=CC=CC=C1)OC1=CC(=C(CN2C(C(CC2)N2CCC(CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=O)C(=C1)Cl)Cl | C39H44Cl2N2O3Si
